US05795958
(FIG. 2-A). N-carboxybenzoyloxy-L-serine benzyl ester (dried under vacuum overnight with phosphorus pentoxide, 5.04 g, 15.3 mmol) and tetraethylammonium bromide (3.47 g, 16.83 mmol) were dissolved in dichloromethane (30 mL) and dimethylformamide (2 mL) containing crushed 4A molecular sieves (15 g). The solution was stirred under argon for thirty minutes. To this slurry was added freshly prepared 2,3,4-tri-O-benzyl-fucopyranosyl bromide (U. Spohr and R. U. Lemieux, Carbohydr. Res., 174 (1988) 211). (38.3 mmol) in dichloromethane (20 mL) and the reaction allowed to stir for 15 hours under argon. Methanol (10 mL) was added and stirring continued for thirty minutes after which the reaction was filtered, diluted with dichloromethane, and washed with water and brine. After drying and solvent removal, the residue was chromatographed (3:1 hexane:ethyl acetate) to give N-(carboxybenzoyloxy)-3-O-(2,3,4-tri-O-benzyl-a-L-fucopyranosyl)-L-serine benzyl ester (9.49 g, 85%) as an oil which solidified upon standing, [a]D -57.7 (c=0.91, chloroform), Rf =0.30 (3:1 hexane:ethyl acetate). 1H-NMR (CDCl3): ε 7.10-7.15 (m, 25 H, Ph), 6.09 (d, 1 H, JNH,CH =9.5 Hz, NH), 5.23 (d, 1 H, Jgem =11.5 Hz, PhCH2), 5.13 (s, 2 H, PhCH2), 5.05, 4.92, 4.76, 4.77 (d, 1 H, Jgem =11.5 Hz, PhCH2), 4.52-4.69 (m, 5 H, 3 PhCH2, serine CHNH, H-1), 4.16 (dd, 1 H, Jgem =10 Hz, Jvic =2.5 Hz, serine CH2), 3.94 (dd, 1 H, J1,2 =4 Hz, J2,3 =10 Hz, H-2), 3.60 (dd, 1H, J2,3 =10 Hz, J3,4 =2.5 Hz, H-3), 3.48 (d, 1 H, Jgem =10 Hz, Jvic =3.5 Hz, serine CH2), 3.29-3.40 (m, 2 H, H-4, H-5), 0.91 (d, 3H, J5,6 =6.5 Hz). 13C-NMR: ε170.10 (C=O ester), 156.30 (C=O), carbamate), 138.88, 138.53, 136.35, 135.51 (Ph quat.), 128.62, 128.57, 128.50, 128.38, 128.19, 128.14, 127.83, 127.64, 127.54 (Ph methine) 98.87 (C-1), 78.87 (C-4), 77.36 (C-3), 76.50 (C-2), 74.74, 73.31, 73.23 (PhCH2), 69.03 (serine CH2), 67.15, 67.07 (PhCH2), 66.68 (C-5), 54.51 (serine CHNH), 16.48 (C-6).

reactant | N-carboxybenzoyloxy-L-serine benzyl ester | 15.3 mmol, 5.04 g | C(C1=CC=CC=C1)OC([C@@H](N(C(=O)O)OC(C1=CC=CC=C1)=O)CO)=O | C18H17NO7
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | 2,3,4-tri-O-benzyl-fucopyranosyl bromide | C(C1=CC=CC=C1)O[C@@H]1C(O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)Br | C27H29BrO4
reactant | Methanol | 10 mL | CO | CH4O
catalyst | tetraethylammonium bromide | 16.83 mmol, 3.47 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(carboxybenzoyloxy)-3-O-(2,3,4-tri-O-benzyl-a-L-fucopyranosyl)-L-serine benzyl ester | 9.49 g, 85% | C(C1=CC=CC=C1)OC([C@@H](NOC(C1=C(C=CC=C1)C(=O)O)=O)CO[C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@@H](O1)C)=O | C45H45NO11
